US05952266
Step A: Preparation of 3-[(2,5-dimethylphenyl)thio]propanoic acid
43.4 g (1.086 mol) of sodium hydroxide was added to 230 mL of water, 75.0 g (0.543 mol) of 2,5-dimethylthiophenol (purchased from Aldrich Chemical Company) was then added and the mixture was cooled to about 10° C. 91.30 g (0.597 mol) of 3-bromopropionic acid (purchased from Aldrich Chemical Company) was added in portions while keeping the temperature below 25° C. The mixture was warmed to room temperature, stirred for 2 h under nitrogen, and was then washed with diethyl ether (3×500 mL). The aqueous layer was acidified with 1N HCl and filtered to yield 112.79 g of the title compound of Step A as a solid melting at 97-98° C. 1H NMR (CDCl3): δ2.3 (s,3H), 2.34 (s,3H), 2.68 (t,2H), 3.1 (t,2H), 6.9 (d,1H), 7.06-7.14 (2H).

reactant | sodium hydroxide | 1.086 mol, 43.4 g | [OH-].[Na+]
reactant | 2,5-dimethylthiophenol | 0.543 mol, 75.0 g | CC1=C(C=C(C=C1)C)S | C8H10S
reactant | 3-bromopropionic acid | 0.597 mol, 91.30 g | BrCCC(=O)O | C3H5BrO2
solvent | water | 230 mL | O | H2O
product | 3-[(2,5-dimethylphenyl)thio]propanoic acid | 112.79 g | CC1=C(C=C(C=C1)C)SCCC(=O)O | C11H14O2S
